US04518597
6-[4-(4-Methyl-phenylsulfinyl)-butoxy]-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 6-[4-(4-methylphenylmercapto)-butoxy]-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 6-[4-(4-methylphenylmercapto)-butoxy]-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one | CC1=CC=C(C=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(CCCCCC)CCCCCC)C1 | C31H45NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(4-Methyl-phenylsulfinyl)-butoxy]-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one | CC1=CC=C(C=C1)S(=O)CCCCOC=1C=CC2=C(C(OC(N2)=O)(CCCCCC)CCCCCC)C1 | C31H45NO4S
